US07495103B2
A mixture of 2,4-di-tert-butyl-6-amino-phenol (C-9) (5.08 g, 23 mmol), NaBH3CN (4.41 g, 70 mmol) and paraformaldehyde (2.1 g, 70 mmol) in methanol (50 mL) was stirred at reflux for 3 h. After removal of the solvent, the residue was purified by column chromatography (petroleum ether-EtOAc, 30:1) to give 2,4-di-tert-butyl-6-(N-methylamino)phenol (C-24) (800 mg, 15%).

reactant | 2,4-di-tert-butyl-6-amino-phenol | 23 mmol, 5.08 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)N)O | C14H23NO
reactant | NaBH3CN | 70 mmol, 4.41 g | [BH3-]C#N.[Na+]
reactant | paraformaldehyde | 70 mmol, 2.1 g | C=O | CH2O
solvent | methanol | 50 mL | CO | CH4O
product | 2,4-di-tert-butyl-6-(N-methylamino)phenol | 800 mg, 15% | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)NC)O | C15H25NO
